US04415571
2.8 g (49.9 millimoles) of prop-2-ynol are added dropwise to a stirred solution of 9.9 g (100 millimoles) of phosgene in 100 ml of absolute ether at -10° C. and the reaction solution is then stirred for 1 hour at the same temperature. Thereafter it is stirred for one hour at room temperature and the excess phosgene is then removed by means of a dry stream of nitrogen, after which the ether is removed under reduced pressure at room temperature. The prop-2-ynyl chloroformate which remains (5.2 g) is added, at room temperature, to a solution, prepared by the method described in Example 31, of 5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone in 150 ml of absolute tetrahydrofuran. The reaction mixture is then refluxed for 1 hour and concentrated to about 70 ml. Water is added and the product is filtered off and recrystallized first from ethanol/water, then from acetone/water and finally from ethanol, giving 2.9 g (41% of theory) of 4,5-dihydro-5-methyl-6-[p-(prop-2-ynyloxycarbonylamino)-phenyl]-3(2H)-pyridazinone as colorless crystals, of melting point 204°-205° C.

reactant | prop-2-ynol | 49.9 millimoles, 2.8 g | C(C#C)O | C3H4O
reactant | phosgene | 100 millimoles, 9.9 g | C(=O)(Cl)Cl | CCl2O
reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-5-methyl-6-[p-(prop-2-ynyloxycarbonylamino)-phenyl]-3(2H)-pyridazinone | 2.9 g, 41% | CC1CC(NN=C1C1=CC=C(C=C1)NC(=O)OCC#C)=O | C15H15N3O3
